US07015236B2
4-Trifluoromethylnicotinic acid chloride (Compound VIII)
4-Trifluoromethylnicotinic acid (50.09 g, 0.262 mol) was suspended in benzene (250 ml), and thionyl chloride (38.2 ml, 0.524 mol) and N,N-dimethylformamide (0.1 ml) were added. The mixture was refluxed for 3 hours. The reaction mixture was concentrated, and the residue was distilled under reduced pressure to obtain 49.45 g (yield 90.1%) of the title compound.

reactant | 4-Trifluoromethylnicotinic acid | 0.262 mol, 50.09 g | FC(C1=CC=NC=C1C(=O)O)(F)F | C7H4F3NO2
reactant | thionyl chloride | 0.524 mol, 38.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 4-Trifluoromethylnicotinic acid chloride | 49.45 g, yield 90.1% | FC(C1=CC=NC=C1C(=O)Cl)(F)F | C7H3ClF3NO
